US05102877
To a solution of (2S,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-carboxypyrrolidine (15 g) in dichloromethane (150 ml) were added dicyclohexylcarbodiimide (11.5 g), Meldrum's acid (8.0 g) and 4-dimethylaminopyridine (6.8 g) at 0° C. After stirring for 24 hours at ambient temperature, the resulting precipitate was removed by filtration. The filtrate was washed with 1N hydrochloric acid solution, and evaporated in vacuo. The residue was dissolved in a mixture of acetic acid (80 ml) and water (60 ml), and refluxed for 1 hour. Evaporation of the solvent gave a residue, which was taken up into ethyl acetate. The solution was washed in turn with saturated sodium bicarbonate and brine, dried over magnesium sulfate, and evaporated. The residue was dissolved in dimethylformamide (60 ml) and then imidazole (8.7 g) and t-butyldimethylsilyl chloride (8.7 g) were added thereto at ambient temperature. After stirring for 10 hour, the mixture was poured into water (200 ml), extracted with ethyl acetate (100 ml×2), dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel eluting with a mixture of n-hexane and ethyl acetate (2:1, V/V) to give (2S,4R)-2-acetyl-1-allyloxycarbonyl-4-t-butyldimethylsilyloxypyrrolidine (10.6 g).

reactant | (2S,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-carboxypyrrolidine | 15 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)O | C15H27NO5Si
reactant | dicyclohexylcarbodiimide | 11.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Meldrum's acid | 8.0 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 6.8 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (2S,4R)-2-acetyl-1-allyloxycarbonyl-4-t-butyldimethylsilyloxypyrrolidine | 10.6 g | C(C)(=O)[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC=C | C16H29NO4Si
